US04085272
Preparation of 1-(3-Tri-n-butylstannyl-2-trans-propenyl)-1-trimethylsilyloxycyclohexane
To a stirred mixture of 31.5 g of 1-propargyl-1-trimethylsilyloxycyclohexane and 150 mg of azobisisobutyronitrile is added 41 ml of tri-n-butyltin hydride. The stirred mixture is heated to about 80° C. The initial exothermic reaction is moderated, and the temperature is subsequently maintained at 130°-135° C for one hour.

reactant | 1-propargyl-1-trimethylsilyloxycyclohexane | 31.5 g | C(C#C)C1(CCCCC1)O[Si](C)(C)C | C12H22OSi
reactant | azobisisobutyronitrile | 150 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | tri-n-butyltin hydride | 41 ml | C(CCC)[SnH](CCCC)CCCC
product | 1-(3-Tri-n-butylstannyl-2-trans-propenyl)-1-trimethylsilyloxycyclohexane | C(CCC)[Sn](C/C=C/C1(CCCCC1)O[Si](C)(C)C)(CCCC)CCCC | InChI=1S/C12H23OSi.3C4H9.Sn/c1-5-9-12(13-14(2,3)4)10-7-6-8-11-12;3*1-3-4-2;/h5,9H,1,6-8,10-11H2,2-4H3;3*1,3-4H2,2H3;/b9-5+;;;;
